.subckt jtl IN OUT VBIAS

B0 5 7 jjr area=2.5
RS0 5 7 2.7
B1 6 8 jjr area=2.5
RS1 6 8 2.7

LP0 7 0 .1pH
LP1 8 0 .1pH

LT0 IN 5 2.1pH
LT1 5 4 2.1pH
LT2 4 6 2.1pH
LT3 6 OUT 2.1pH

R0 VBIAS 4 29

.ends jtl