* Back - annotated simulation file writtenby InductEx v .6.0.4 on 1 -4 -21.
* Author : L . Schindler
* Version : 2.1
* Last modification date : 9 March 2021
* Last modification by : L . Schindler
* $Ports a q0 q1
.subckt spl a q0 q1
.model jjmit jj(rtype =1, vg =2.8mV, cap=0.07pF, r0 =160, rn=16, icrit=0.1mA)
.param Phi0 =2.067833848 E -15
.param B0 =1
.param Ic0 =0.0001
.param IcRs =100u*6.859904418
.param B0Rs = IcRs / Ic0 * B0
.param Rsheet =2
.param Lsheet =1.13e-12
.param LP =0.2p
.param IC =2.5
.param Lptl =2p
.param LB =2p
.param BiasCoef=0.7
.param RD =1.36
.param B1 =2.5
.param B2 =3.0
.param B3 =2.5
.param B4 =2.5

.param IB1 =175u
.param IB2 =280u
.param IB3 =175u
.param IB4 =175u
.param L1 = Lptl
.param L2 = Phi0 /(2* B1 * Ic0 )
.param L3 =( Phi0 /(2* B2 * Ic0 ) ) /2
.param L4 = L3
.param L5 = Lptl
.param L6 = L3
.param L7 = Lptl

.param RB1 = B0Rs / B1
.param RB2 = B0Rs / B2
.param RB3 = B0Rs / B3
.param RB4 = B0Rs / B4
.param LRB1 =( RB1 / Rsheet ) * Lsheet
.param LRB2 =( RB2 / Rsheet ) * Lsheet
.param LRB3 =( RB3 / Rsheet ) * Lsheet
.param LRB4 =( RB4 / Rsheet ) * Lsheet

IB1 0 3 pwl (0 0 5p IB1 )
IB2 0 6 pwl (0 0 5p IB2 )
IB3 0 10 pwl (0 0 5p IB3 )
IB4 0 13 pwl (0 0 5p IB4 )
LB1 3 1 9.175E-13
LB2 6 4 7.666E-13
LB3 10 8 1.928E-12
LB4 13 11 8.786E-13

B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 8 9 jjmit area=B3
B4 11 12 jjmit area=B4
L1 a 1 2.063E-12
L2 1 4 3.637E-12
L3 4 7 1.278E-12
L4 7 8 1.305E-12
L5 8 q0 2.05E-12
L6 7 11 1.315E-12
L7 11 q1 2.06E-12

LP1 2 0 4.676E-13
LP2 5 0 4.498E-13
LP3 9 0 5.183E-13
LP4 12 0 4.639E-13
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 8 108 RB3
LRB3 108 0 LRB3
RB4 11 111 RB4
LRB4 111 0 LRB4
.ends