* Back - annotated simulation file written

* by InductEx v .6.0.4 on 29 -3 -21.
* Author : L . Schindler
* Version : 2.1
* Last modification date : 3 June 2021
* Last modification by : L . Schindler
* $Ports a b clk q

.SUBCKT OR a b q clk
.model jjmit jj(rtype =1, vg =2.8mV, cap=0.07pF, r0 =160, rn =16, icrit =0.1mA)
.param Phi0 =2.067833848E-15
.param B0 =1
.param Ic0 =0.0001
.param IcRs =100u *6.859904418
.param B0Rs = IcRs / Ic0 * B0
.param Rsheet =2
.param Lsheet =1.13e-12
.param LP =0.2p
.param IC =2.5
.param Lptl =2p
.param LB =2p
.param BiasCoef =0.7
.param B1 =2.5
.param B2 =2.22
.param B3 =1.86
.param B4 = B1
.param B5 = B2
.param B6 = B3
.param B7 =2.28
.param B8 =2.09
.param B9 =2.5
.param B10 =1.52
.param B11 =1.60
.param B12 =2.5
.param IB1 =175u
.param IB2 = IB1
.param IB3 =304u
.param IB4 =142u
.param IB5 =175u
.param IB6 =175u
.param L1 = Phi0 /(4* IC * Ic0 )
.param L2 = Phi0 /(2* B1 * Ic0 )
.param L3 = 1p
.param L4 = L1
.param L5 = L2
.param L6 = L3
.param L7 = Phi0 /(2* B2 * Ic0 )
.param L8 = Phi0 /( B8 * Ic0 )
.param L9 = Phi0 /(4* IC * Ic0 )
.param L10 = Phi0 /(2* B9 * Ic0 )
.param L11 = Phi0 /(2* B11 * Ic0 )
.param L12 = Phi0 /(4* IC * Ic0 )

.param RB1 = B0Rs / B1
.param RB2 = B0Rs / B2
.param RB3 = B0Rs / B3
.param RB4 = B0Rs / B4
.param RB5 = B0Rs / B5
.param RB6 = B0Rs / B6
.param RB7 = B0Rs / B7
.param RB8 = B0Rs / B8
.param RB9 = B0Rs / B9
.param RB10 = B0Rs / B10
.param RB11 = B0Rs / B11
.param RB12 = B0Rs / B12
.param LRB1 =( RB1 / Rsheet ) * Lsheet + LP
.param LRB2 =( RB2 / Rsheet ) * Lsheet + LP
.param LRB3 =( RB3 / Rsheet ) * Lsheet + LP
.param LRB4 =( RB4 / Rsheet ) * Lsheet + LP
.param LRB5 =( RB5 / Rsheet ) * Lsheet + LP
.param LRB6 =( RB6 / Rsheet ) * Lsheet + LP
.param LRB7 =( RB7 / Rsheet ) * Lsheet + LP
.param LRB8 =( RB8 / Rsheet ) * Lsheet + LP
.param LRB9 =( RB9 / Rsheet ) * Lsheet + LP
.param LRB10 =( RB10 / Rsheet ) * Lsheet + LP
.param LRB11 =( RB11 / Rsheet ) * Lsheet + LP
.param LRB12 =( RB12 / Rsheet ) * Lsheet + LP

L1 a 1 2.051E-12
L2 1 4 3.232E-12
L3 4 6 1.198E-12
L4 b 8 2.046E-12
L5 8 11 3.242E-12
L6 11 13 1.191E-12
L7 7 15 3.341E-12
L8 16 19 7.998E-12
L9 clk 20 2.062E-12
L10 20 23 3.408E-12
L11 19 25 3.54E-12
L12 25 q 2.05E-12

B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 6 7 jjmit area=B3
B4 8 9 jjmit area=B4
B5 11 12 jjmit area=B5
B6 13 7 jjmit area=B6
B7 15 16 jjmit area=B7
B8 16 17 jjmit area=B8
B9 20 21 jjmit area=B9
B10 23 19 jjmit area=B10
B11 19 24 jjmit area=B11
B12 25 26 jjmit area=B12

IB1 0 3 pwl (0 0 5p IB1 )
IB2 0 10 pwl (0 0 5p IB2 )
IB3 0 14 pwl (0 0 5p IB3 )
IB4 0 18 pwl (0 0 5p IB4 )
IB5 0 22 pwl (0 0 5p IB5 )
IB6 0 27 pwl (0 0 5p IB6 )

LB1 1 3 LB
LB2 8 10 LB
LB3 7 14 LB
LB4 16 18 LB
LB5 20 22 LB
LB6 25 27 LB
LP1 2 0 5.253E-13
LP2 5 0 5.141E-13
LP4 9 0 5.352E-13
LP5 12 0 5.154E-13
LP8 17 0 4.905E-13
LP9 21 0 5.216E-13
LP11 24 0 5.649E-13
LP12 26 0 5.28E-13
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 6 105 RB3
LRB3 105 7 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 11 111 RB5
LRB5 111 0 LRB5
RB6 13 113 RB6
LRB6 113 7 LRB6
RB7 15 115 RB7
LRB7 115 16 LRB7
RB8 16 116 RB8
LRB8 116 0 LRB8
RB9 20 120 RB9
LRB9 120 0 LRB9
RB10 23 123 RB10
LRB10 123 19 LRB10
RB11 19 119 RB11
LRB11 119 0 LRB11
RB12 25 125 RB12
LRB12 125 0 LRB12
.ends
