* BQ Test — I_IN=133uA current step
.include ../../circuits/qb/bq_cell.cir

XBQ1 IN1 OUT1 IBIAS1 BQ
R_LOAD  OUT1 0 12.0

.param IIN=133U
.param IBIAS=100U

I_IBIAS IBIAS1 0 DC IBIAS

I_IN    0 IN1 pwl(0 0 20p 0
+ 25p  IIN 50p IIN 55p 0
+ 80p  0
+ 85p -IIN 110p -IIN 115p 0
+ 150p 0)

.tran 0.25p 150p 0 0.5p 0 DST
.print I(I_IN) V(OUT1)
.print V(B_JS|XBQ1) P(B_JS|XBQ1)
.print V(B_JL1|XBQ1) V(B_JL2|XBQ1)
.print P(B_JL1|XBQ1) P(B_JL2|XBQ1)
.print I(R_LOAD)
.end
